US07981914B2
3-(3-Methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid methyl ester (170 mg, 0.52 mmol) was added to a mixture of THF (20 mL) and MeOH (5 mL) and cooled to ice bath temperature under nitrogen atmosphere. LiOH.H2O (8.8 g, 2.1 mmol) was added, and the reaction mixture was stirred for 18 hours at room temperature. The reaction mixture was concentrated under reduced pressure and 10.0 g of water ice and 10 mL of 10% aqueous HOAc were added to the residue. The resulting mixture was filtered, and the filtrate was washed with 10% aqueous HOAc. The collected solid was dried under vacuum at 60° C. for 3 horus to give 140 mg of 3-(3-methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid, MS (M+H)=298.

reactant | 3-(3-Methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid methyl ester | 0.52 mmol, 170 mg | COC(C1=CC(=CC(=C1)N1N=NN=C1)C1=NC=CC=C1OC)=O | C15H13N5O3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 2.1 mmol, 8.8 g | O[Li].O
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(3-methoxy-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid | 140 mg | COC=1C(=NC=CC1)C=1C=C(C(=O)O)C=C(C1)N1N=NN=C1 | C14H11N5O3
